US07919488B2
1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-isopropylpiperidin-4-amine
To a solution of 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-amine (0.3 g, 0.76 mmol) in CH2Cl2 (5 mL) was added acetone (56 μL, 0.76 mmol) and the solution was stirred for 15 minutes at room temperature. This was followed by the addition of NaBH(OAc)3 (0.242 g, 1.14 mmol) and the reaction mixture was stirred overnight at room temperature. The mixture was diluted with CH2Cl2 (20 mL) and 2 M NaOH and the bi-phasic solution was stirred for 20 minutes. The mixture was extracted with CH2Cl2 (2×25 mL) and the combined organic layers were dried over MgSO4, filtered and concentrated. The residue was purified by flash chromatography (90:10:1 CH2Cl2/MeOH/NH4OH) to give the title compound as a white solid (0.19 g, 44%). 1H NMR (400 MHz, DMSO-D6) δ ppm 8.51 (d, 2 H), 7.66 (d, 2 H), 7.30 (t, 2 H), 7.14 (t, 2 H), 6.51 (s, 1 H), 5.13-5.20 (m, 2 H), 4.07-4.16 (m, 1 H), 3.93 (s, 2 H), 3.77-3.87 (m, 1 H), 3.04-3.14 (m, 1 H), 2.83-2.93 (m, 1 H), 2.69-2.79 (m, 2 H), 1.72-1.86 (m, 5H); m/z (APCI+) for C25H30N5OF 436.1 (M+H)+.

reactant | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-amine | 0.76 mmol, 0.3 g | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)N)C2=CC=NC=C2)C=C1 | C22H24FN5O
reactant | acetone | 0.76 mmol, 56 μL | CC(=O)C | C3H6O
reactant | NaBH(OAc)3 | 1.14 mmol, 0.242 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 2 M | [OH-].[Na+]
product | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-isopropylpiperidin-4-amine | 0.19 g, 44% | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)NC(C)C)C2=CC=NC=C2)C=C1 | C25H30FN5O
